US04933345
At 100° C., 500 mg of 3-acetyl-6-benzyloxy-4-methoxymethyl-β-carboline is stirred overnight in 5 ml of N,N-dimethylformamide diethylacetal. After concentration by evaporation, the mixture, without further purification, is taken up in 20 ml of absolute ethanol, combined with 600 mg of hydroxylamine-O-sulfonic acid in 5 ml of methanol, and stirred for 5 hours at room temperature. After neutralization with triethylamine, the reaction mixture is stirred overnight, introduced into water, and extracted with ethyl acetate; the organic phase is dried over magnesium sulfate and concentrated under vacuum. After chromatography over silica gel with acetone:triethylamine in a ratio of 10:1 as the eluent, 130 mg of 6-benzyloxy-4-methoxymethyl-3-(5-isoxazolyl)-β-carboline is obtained, melting point 125°-126° C.

reactant | 3-acetyl-6-benzyloxy-4-methoxymethyl-β-carboline | 500 mg | C(C)(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)OCC1=CC=CC=C1 | C22H20N2O3
reactant | N,N-dimethylformamide diethylacetal | 5 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 6-benzyloxy-4-methoxymethyl-3-(5-isoxazolyl)-β-carboline | 130 mg | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3NC2=CC1)C1=CC=NO1)COC | C23H19N3O3
